US08865623B2
To a mixture of 2-(5-bromo-2-ethylphenyl)-5,5-dimethylcyclohexane-1,3-dione (0.236 g, 0.73 mmol), cesium carbonate (0.477 g, 1.46 mmol), 4-chloro-3-fluorophenol (0.535 g, 3.65 mmol), copper (II) trifluoromethanesulfonate (0.012 g, 0.04 mmol) and powdered 3 Å molecular sieves (0.300 g) is added anhydrous toluene (4 ml). After purging with nitrogen the reaction mixture is heated at 170° C. for 1 hour under microwave irradiation, then allowed to cool to room temperature. After quenching with 2M aqueous hydrochloric acid the crude product is extracted into dichloromethane (×2) and the phases are separated. Organic solvents are removed in vacuo and the crude product is purified by preparative reverse-phase HPLC to afford 2-[5-(4-chloro-3-fluorophenoxy)-2-ethylphenyl]-5,5-dimethylcyclohexane-1,3-dione as a white solid.

reactant | 2-(5-bromo-2-ethylphenyl)-5,5-dimethylcyclohexane-1,3-dione | 0.73 mmol, 0.236 g | BrC=1C=CC(=C(C1)C1C(CC(CC1=O)(C)C)=O)CC | C16H19BrO2
reactant | cesium carbonate | 1.46 mmol, 0.477 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloro-3-fluorophenol | 3.65 mmol, 0.535 g | ClC1=C(C=C(C=C1)O)F | C6H4ClFO
catalyst | copper (II) trifluoromethanesulfonate | 0.04 mmol, 0.012 g | FC(S(=O)(=O)[O-])(F)F.[Cu+2].FC(S(=O)(=O)[O-])(F)F
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[5-(4-chloro-3-fluorophenoxy)-2-ethylphenyl]-5,5-dimethylcyclohexane-1,3-dione | ClC1=C(C=C(OC=2C=CC(=C(C2)C2C(CC(CC2=O)(C)C)=O)CC)C=C1)F | C22H22ClFO3
